US04105681
294 ml. of butyric acid anhydride are treated, after the addition of 2 ml. of concentrated aqueous sulfuric acid, at room temperature with 122 g. of 3,5-dimethyl-phenol. The temperature rises to 40° C. and is then raised to 80° C. The mixture is stirred for 1 hour and diluted with 60 ml. of water and 60 ml. of ethanol, poured onto ice water and twice extracted with 500 ml. of hexane each time. The hexane extract is washed with water, aqueous sodium bicarbonate solution, dried over sodium sulfate and evaporated. There is obtained 1 butyryloxy-3,5-dimethyl-benzene which boils at 123°-125° C./11 mm Hg after rectification.

reactant | butyric acid anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3,5-dimethyl-phenol | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | butyryloxy-3,5-dimethyl-benzene | C(CCC)(=O)OC1=CC(=CC(=C1)C)C | C12H16O2
